US04022814
A solution of 35.2 gm (0.2 mol) of α-ethyl cinnamic acid in 450 ml of 3% sodium hydroxide was reduced in a hydrogen atmosphere at 60 psi using 4 gm of 5% palladium on charcoal. After hydrogen uptake had ceased, the reaction mixture was filtered, acidified with hydrochloric acid and extracted with ether. Evaporation gave 36 gm (0.2 mol) of 2-benzyl butanoic acid.

reactant | α-ethyl cinnamic acid | 0.2 mol, 35.2 gm | C(C)C(C(=O)O)=CC1=CC=CC=C1 | C11H12O2
reactant | hydrogen | [H][H] | H2
solvent | sodium hydroxide | 450 ml | [OH-].[Na+]
catalyst | palladium on charcoal | 4 gm | [Pd] | Pd
product | 2-benzyl butanoic acid | 0.2 mol, 36 gm | C(C1=CC=CC=C1)C(C(=O)O)CC | C11H14O2
